US05340831
Preparation of 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl) -1-(4methoxycarbonylphenethyl)pyrrolidine
A mixture containing 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine (0.6 g--see Preparation 8), 4-methoxycarbonylphenethyl bromide (0.53 g--see Preparation 15), anhydrous potassium carbonate (0.5 g) and acetonitrile (20 ml) was heated under reflux for 1.5 hours. On cooling to room temperature, water (60 ml) was added and the resulting mixture extracted with dichloromethane (3×50 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a gum which was purified by column chromatography on silica eluting with dichloromethane containing methanol (2% up to 6%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a colourless foam, yield, 0.44 g.

reactant | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine | 0.6 g | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCC1 | C18H20N2O
reactant | 4-methoxycarbonylphenethyl bromide | 0.53 g | COC(=O)C1=CC=C(CCBr)C=C1 | C10H11BrO2
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 60 ml | O | H2O
product | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl) -1-(4methoxycarbonylphenethyl)pyrrolidine | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CC1)CCC1=CC=C(C=C1)C(=O)OC | C28H30N2O3
